US04863959
α-[(tert-butylamino)methyl]-2,3-difluorobenzyl alcohol
By using the procedure of Example 18, 4-amino-α-[(tert-butylamino)methyl]-2,3-difluorobenzyl alcohol is deaminated with H3PO2 to afford the title compound. Similarly, 2,3-difluoro-α-[(isopropylamino)methyl]benzyl alcohol is obtained from its corresponding 4-amino compound.

reactant | 4-amino-α-[(tert-butylamino)methyl]-2,3-difluorobenzyl alcohol | NC1=C(C(=C(C(CNC(C)(C)C)O)C=C1)F)F | C12H18F2N2O
reactant | H3PO2 | O[PH2]=O | H3O2P
product | α-[(tert-butylamino)methyl]-2,3-difluorobenzyl alcohol | C(C)(C)(C)NCC(C1=C(C(=CC=C1)F)F)O | C12H17F2NO
